US08461328B2
Acrylonitrile (3.6 ml, 55.0 mmol) and triethylamine (2 drops) were added sequentially to a solution of piperidin-4-yl-carbamic acid tert-butyl ester (10 g, 50.0 mmol) in ethanol (100 ml) at 25° C. The reaction mixture was stirred at 25° C. for 3.5 h, then was concentrated under reduced pressure to afford crude [1-(2-cyano-ethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester as a white solid. TLC: 5% CH3OH in CH2Cl2, Rf=0.56; 1H NMR (400 MHz, CDCl3) δ 4.42 (s, 1H), 3.45 (s, 1H), 2.82 (d, J=11.8 Hz, 2H), 2.67 (t, J=7.0 Hz, 2H), 2.49 (t, J=7.0 Hz, 2H), 2.18 (td, J=11.5, 2.3 Hz, 2H), 1.94 (d, J=12.1 Hz, 3H), 1.51-1.36 (m, 1H), 1.44 (s, 9H). This material was used in the next step below without additional purification or characterization.

reactant | Acrylonitrile | 55.0 mmol, 3.6 ml | C(C=C)#N | C3H3N
reactant | piperidin-4-yl-carbamic acid tert-butyl ester | 50.0 mmol, 10 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | [1-(2-cyano-ethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)CCC#N)=O | C13H23N3O2
